US07939666B2
Stage 1: 4-(3-Nitro-phenoxy)-butyric acid methyl ester
To a solution of 3-nitrophenol (8.35 g, 60 mmol), in DMF (50 ml) was added K2CO3 (16.56 g, 120 mmol) and methyl 1,4-bromobutyrate (11.95 g, 66 mmol). The reaction was stirred at room temperature for 16 h. The reaction was diluted with ethyl acetate and water. The organic phase was separated and washed with water (2×200 ml). The organic phase was dried with Na2SO4 and concentrated in vacuo. The required ether was isolated following chromatography (ethyl acetate: heptane, 1:9) as a pale yellow solid (12.2 g, 85% yield). LCMS purity 100%, m/z 240 [M++H]+.

reactant | 3-nitrophenol | 60 mmol, 8.35 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | K2CO3 | 120 mmol, 16.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | heptane | CCCCCCC | C7H16
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(3-Nitro-phenoxy)-butyric acid methyl ester | 12.2 g, 85% yield | COC(CCCOC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H13NO5
